US07319099B2
(a) 4-Bromo-N-(2,2-dimethoxy-ethyl)-benzamide
A solution of 24 mmol aminoacetaldehyde dimethylacetal was dissolved in 30 ml of water and treated with 25 mmol of potassium hydrogencarbonate. A solution of 23 mmol of 4-bromobenzoyl chloride in 50 ml of acetone was slowly added under stirring over a period of 30 min. The acetone was evaporated and the aqueous phase was extracted 3 times with ethyl acetate to yield the crude title compound as a slightly brown solid.

reactant | aminoacetaldehyde dimethylacetal | 24 mmol | COC(CN)OC | C4H11NO2
reactant | potassium hydrogencarbonate | 25 mmol | C(O)([O-])=O.[K+]
reactant | 4-bromobenzoyl chloride | 23 mmol | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | water | 30 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-Bromo-N-(2,2-dimethoxy-ethyl)-benzamide | BrC1=CC=C(C(=O)NCC(OC)OC)C=C1 | C11H14BrNO3
